US03937722
α-(2-Carbethoxy-ethyl)-benzoin-i-propyl ether
1 ml of an aqueous 4N sodium hydroxide solution is added to a solution of 25.4 g (0.1 mol) benzoin isopropyl ether in 100 ml DMSO. The blue-green solution is mixed dropwise at 20°C with acrylic acid ethyl ester until the colour turns yellow (0.104 mol). After stirring for 2 hours, the product is worked up. The crystalline crude product is recrystallised from petroleum ether; melting point 52°-53°C. 86% of theory.

reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | benzoin isopropyl ether | 0.1 mol, 25.4 g | C(C)(C)OC(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C17H18O2
reactant | acrylic acid ethyl ester | C(C)OC(C=C)=O | C5H8O2
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | α-(2-Carbethoxy-ethyl)-benzoin i-propyl ether | C(=O)(OCC)CCC(C(C1=CC=CC=C1)=O)(O)C1=CC=CC=C1.C(C)(C)OC(C)C | InChI=1S/C19H20O4.C6H14O/c1-2-23-17(20)13-14-19(22,16-11-7-4-8-12-16)18(21)15-9-5-3-6-10-15;1-5(2)7-6(3)4/h3-12,22H,2,13-14H2,1H3;5-6H,1-4H3
